US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-5-piperidin-4-yloxy-7-(2,2,2-trifluoroethoxy)quinazoline
A mixture of 5-[N-(tert-butoxycarbonyl)piperidin-4-yloxy]-4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxyquinazoline (0.15 g), 2,2,2-trifluoroethyl 4-toluenesulphonate (0.089 g), potassium carbonate (0.1 g) and DMF (3 ml) was stirred and heated to 95° C. for 24 hours. The mixture was cooled to ambient temperature and partitioned between ethyl acetate and water. The organic solution was washed with 1N aqueous sodium hydroxide solution and with brine and dried over magnesium sulphate. The organic solution was filtered and a 6N solution of hydrogen chloride in diethyl ether (2 ml) was added. The mixture was stirred at ambient temperature for 16 hours. The mixture was evaporated. The residue was dissolved in methylene chloride (3 ml) and a saturated methanolic ammonia solution (1 ml) was added. The mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography on silica using a 19:1 mixture of methylene chloride and a saturated methanolic ammonia solution as eluent. There was thus obtained the title compound (0.061 g); NMR Spectrum: (CDCl3) 1.85–2.0 (m, 2H), 2.3 (m, 2H), 2.8–2.95 (m, 2H), 3.1–3.3 (m, 2H), 4.5 (m, 2H), 4.72 (m, 1H), 6.08 (s, 2H), 6.6 (d, 1H), 6.75 (d, 1H), 6.82 (d, 1H), 7.0 (d, 1H), 8.58 (s, 1H), 9.32 (s, 1H); Mass Spectrum: M+H+ 497 and 499.

reactant | 5-[N-(tert-butoxycarbonyl)piperidin-4-yloxy]-4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxyquinazoline | 0.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=NC2=CC(=C1)O)NC1=C2C(=CC=C1Cl)OCO2 | C25H27ClN4O6
reactant | 2,2,2-trifluoroethyl 4-toluenesulphonate | 0.089 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(F)(F)F)C | C9H9F3O3S
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(6-chloro-2,3-methylenedioxyanilino)-5-piperidin-4-yloxy-7-(2,2,2-trifluoroethoxy)quinazoline | 0.061 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCNCC1)OCC(F)(F)F)OCO2 | C22H20ClF3N4O4
